US07030128B2
2-Chloropyridine (361 μl, 3.78 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.89 mmol) by the method of Example 1 to give 3-(pyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine (134 mg) as a white solid: δH (400 MHz, CDCl3) 7.24-7.30 (1H, m), 7.33 (1H, d, J 7.0), 7.82-7.84 (2H, m), 8.51 (1H, s), 8.68-8.70 (1H, m), 10.54 (1H, d, J 7.0); m/z (ES+) 265 (M++H).

reactant | 2-Chloropyridine | 3.78 mmol, 361 μl | ClC1=NC=CC=C1 | C5H4ClN
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.89 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(pyridin-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | 134 mg | N1=C(C=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C12H7F3N4
